US07846960B2
4-{[(2-Fluoro-4-hydroxy-phenyl)-methyl-amino]-methyl}-2-methyl-benzoic Acid Methyl Ester
A mixture of 4-[(2-fluoro-4-hydroxy-phenylamino)-methyl]-2-methyl-benzoic acid methyl ester (1.89 g, 6.53 mmol) and 2.0 mL of 37% formaldehyde in 20 mL of acetic acid is stirred for 40 minutes. Sodium triacetoxyborohydride (2.80 g, 13.2 mmol) is added. Upon completion, the mixture is concentrated and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer is extracted with ethyl acetate (3×). The combined ethyl acetate layers are dried (MgSO4) and concentrated. The residue is purified on 120 g silica with ethyl acetate in heptane gradient (10% to 60%) to provide 1.0 g (51%) of the titled compound as a white solid. LC-ES/MS m/e 304.0 (M+1).

reactant | 4-[(2-fluoro-4-hydroxy-phenylamino)-methyl]-2-methyl-benzoic acid methyl ester | 6.53 mmol, 1.89 g | COC(C1=C(C=C(C=C1)CNC1=C(C=C(C=C1)O)F)C)=O | C16H16FNO3
reactant | formaldehyde | 2.0 mL | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 13.2 mmol, 2.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-{[(2-Fluoro-4-hydroxy-phenyl)-methyl-amino]-methyl}-2-methyl-benzoic Acid Methyl Ester | 1.0 g, 51% | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)O)F)C)=O | C17H18FNO3
